US07163937B2
Examples 2t and 2u, Step 5: A sample of benzyl (S)-1-((1S,2R,4R)-4-(tert-butyldimethylsilyloxy)-2-propylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (0.4 g, 0.82 mmol) was dissolved in 36 mL of 4:1:1 HOAc/THF/water and stirred at RT for 5 days. The volatiles were removed in vacuo and the residue was dissolved in EtOAc. The organic phase was washed with sat. NaHCO3, dried (MgSO4), filtered, and concentrated in vacuo. The residue was dissolved in methylene chloride (4 mL) and the resultant solution was cooled to 0° C. and charged with Dess-Martin periodinane (0.54 g, 1.27 mmol). After stirring for 2 h at RT, the solution was again cooled to 0° C. and charged with Dess-Martin periodinane (0.27 g). The reaction was stirred at RT for 14 h and treated with Et2O. The resultant suspension was washed with 1 N NaOH, sat. Na2S2O3, and sat. NaHCO3. The organic phase was dried (MgSO4), filtered, and concentrated in vacuo to afford benzyl (S)-2-oxo-1-((1S,2R)-4-oxo-2-propylcyclohexyl)pyrrolidin-3-ylcarbamate (114 mg). MS found: (M+Na)+=395.4.

reactant | benzyl (S)-1-((1S,2R,4R)-4-(tert-butyldimethylsilyloxy)-2-propylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 0.82 mmol, 0.4 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O)CCC | C27H44N2O4Si
reactant | Dess-Martin periodinane | 1.27 mmol, 0.54 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin periodinane | 0.27 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Et2O | CCOCC | C4H10O
solvent | HOAc THF water | 36 mL | CC(=O)O.C1CCOC1.O
product | benzyl (S)-2-oxo-1-((1S,2R)-4-oxo-2-propylcyclohexyl)pyrrolidin-3-ylcarbamate | 114 mg | O=C1N(CC[C@@H]1NC(OCC1=CC=CC=C1)=O)[C@@H]1[C@@H](CC(CC1)=O)CCC | C21H28N2O4
